US07179823B1
A mixture of 2-(4-chloromethyl-3-methyl-1H-pyrazol-1-yl)pyridine (350 mg), ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (500 mg), potassium carbonate (500 mg) and N,N-dimethylformamide (10 ml) was stirred at 80° C. for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-ethoxy-1-[4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzyl]-1H-pyrazol-4-yl]propionate (700 mg, yield: 91%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 2-(4-chloromethyl-3-methyl-1H-pyrazol-1-yl)pyridine | 350 mg | ClCC=1C(=NN(C1)C1=NC=CC=C1)C | C10H10ClN3
reactant | ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 500 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C17H22N2O4
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-ethoxy-1-[4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzyl]-1H-pyrazol-4-yl]propionate | 700 mg, yield: 91% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1C(=NN(C1)C1=NC=CC=C1)C | C27H31N5O4
